US07772285B2
10.0 g of 6-(2,4-dihydroxybenzoyl)-2-chromanone was suspended in 100 mL of methylene chloride, to which 3.53 mL of 3,4-dihydro-2H-pyran and 0.884 g of pyridinium p-toluenesulfonate were added, and this mixture was stirred for 18 hours at room temperature. The reaction mixture was poured into a saturated aqueous solution of sodium hydrogen carbonate, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate and the solvent was distilled out thereof under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=3:1] to yield 6.99 g of 6-[2-hydroxy-4-(tetrahydro-2H-pyran-2-yloxy)benzoyl]-2-chromanon as light yellow solid.

reactant | 6-(2,4-dihydroxybenzoyl)-2-chromanone | 10.0 g | OC1=C(C(=O)C=2C=C3CCC(OC3=CC2)=O)C=CC(=C1)O | C16H12O5
reactant | 3,4-dihydro-2H-pyran | 3.53 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.884 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-hydroxy-4-(tetrahydro-2H-pyran-2-yloxy)benzoyl]-2-chromanon | 6.99 g | OC1=C(C(=O)C=2C=C3CCC(OC3=CC2)=O)C=CC(=C1)OC1OCCCC1 | C21H20O6
